US09376441B2
Step-3 Preparation of (R)-4-((R)-1-((3-cyclopropyl-6-(4-(3-morpholinoazetidin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one
To a 2-5 ml microwave vial, combined (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one (85 mg, 0.23 mmol), 4-(1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)azetidin-3-yl)morpholine (100.15 mg, 0.29 mmol), tetrakis(triphenylphosphine)palladium (26.89 mg, 0.02 mmol), 1M Sodium carbonate soln in water (0.7 ml) in dioxane (2.3 mL) and blown down with nitrogen. The reaction was irradiated for 20 mins at 150 C. The reaction was diluted with water, extracted with DCM, combined organics, dried (Na2SO4), filtered, concentrated. Residues were purified by silica gel column chromatography to yield the title compound (4.2 mg, 3.6%) as a free base.

reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 0.23 mmol, 85 mg | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 4-(1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)azetidin-3-yl)morpholine | 0.29 mmol, 100.15 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CC(C1)N1CCOCC1)C | C19H29BN2O3
reactant | Sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.7 ml | O | H2O
solvent | dioxane | 2.3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 26.89 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-4-((R)-1-((3-cyclopropyl-6-(4-(3-morpholinoazetidin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | 4.2 mg, 3.6% | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CC(C2)N2CCOCC2)O[C@H](C)[C@@H]2CC(NC2)=O | C28H34N6O3
